US04025630
4,4-Dimethyl-7-(4-fluorophenyl-1-methylbutyl)-9-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta [c][l]benzopyran hydrochloride
3.21 g. (9.37 mmole) of 4,4-Dimethyl-9-hydroxy-7-(4-fluorophenyl-1-methyloctyl)-1,2,3,4-tetrahydrocyclopenta [c][1]benzopyran are combined with 1.82 g. (9.37 mmole) of γ-pyrrolidinobutyric acid hydrochloride and 2.06 g. (10.0 mmole) of dicyclohexylcarbodiimide in 150 ml. of methylene chloride and stirred at room temperature for 21/2 hours. The insoluble by-product of dicyclohexylurea is removed by filtration and the filtrate is evaporated to give a residue which crystallized upon standing. The material is triturated with ether and filtered. Recrystallization from benzene/ether gives the product as colorless crystals.

reactant | 4,4-Dimethyl-9-hydroxy-7-(4-fluorophenyl-1-methyloctyl)-1,2,3,4-tetrahydrocyclopenta [c][1]benzopyran | 9.37 mmole | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCCCCC)(C)C2=CC=C(C=C2)F)O)C | C29H37FO2
reactant | γ-pyrrolidinobutyric acid hydrochloride | 9.37 mmole | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 10.0 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(4-fluorophenyl-1-methylbutyl)-9-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta [c][l]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCN2CCCC2)=O)C | InChI=1S/C33H42FNO3.ClH/c1-5-17-33(4,23-13-15-25(34)16-14-23)24-21-28(37-30(36)12-9-20-35-18-6-7-19-35)31-26-10-8-11-27(26)32(2,3)38-29(31)22-24;/h13-16,21-22H,5-12,17-20H2,1-4H3;1H
